* D:\Universidad\ITBA 2022\2C 2022\Teoria de Circuitos\TP4\Cauer\LuyDami\Circuito.asc
XU1 0 N001 V+ V- Vo TL082
R1 N001 0 5591
V1 V+ 0 15
V2 0 V- 15
R2 Vo N001 1000
R3 N001 0 8946
C1 N002 0 829.8p
C2 N002 0 1n
R6 Vo N002 5664.12
C3 N002 0 170.18p
V3 0 0 AC 1.
.ac dec 100 10 100000
.lib TCLib/TL082.lib
.backanno
.end
